US07091227B2
N-Ethyl-N′-[6-(2H-1,2,3,4-tetraazol-5-yl)-1,3-benzothiazol-2-yl]urea
About 30 mg N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea was charged into about 5 mL dry tetrahydrofuran. Added about 2 g of azidotributylstannane then refluxed for about 48–72 hours. The solvent was removed under reduced pressure then the crude oil was taken up in dichloromethane. About 0.5 mL of dilute aqueous hydrochloric acid was added and a white precipitate formed. This was allowed to sit for about 30 minutes then the precipitate was collected by filtration, washed with warm THF then dried under vacuum. 1H NMR 1.10 (t, 3H), 3.2 (m, 2H), 6.76 (br s, 1H), 7.78 (d, 1H), 8.0 (d, 1H), 8.58 (s, 1H), 10.91 (s, 1H); LC/MS 1.37 min, 290 (M+1).

reactant | N-(6-cyano-1,3-benzothiazol-2-yl)-N′-ethylurea | 30 mg | C(#N)C1=CC2=C(N=C(S2)NC(=O)NCC)C=C1 | C11H10N4OS
reactant | azidotributylstannane | about 2 g | N(=[N+]=[N-])[Sn](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | about 5 mL | O1CCCC1 | C4H8O
product | N-Ethyl-N′-[6-(2H-1,2,3,4-tetraazol-5-yl)-1,3-benzothiazol-2-yl]urea | C(C)NC(=O)NC=1SC2=C(N1)C=CC(=C2)C=2N=NNN2 | C11H11N7OS
